US04125534
A. Preparation of 3-(N-carbazolyl)-1-propyne
A 3,000 ml. 3-necked, round bottom flask was fitted with mechanical stirrer, addition funnel, Dry Ice/acetone reflux condenser and means for providing nitrogen atmosphere. To the flask was added 75 g (0.45 mole) of carbazole, 20 g (0.50 mole) of sodium amide, and 1500 ml of liquid ammonia. After stirring vigorously at 31 33° C for about 2.5 hr, 75 g (0.63 mole) of 3-bromo-1-propyne was added dropwise over a period of 1 hr to the reaction mixture at -55° C. After the addition, striring was continued for an additional 5 hrs, and the ammonia was allowed to evaporate overnight. The residue in the reaction flask was extracted with hexane four times. In each extraction, 3,000 ml of hexane was used and the hexane mixture was stirred vigorously with a mechanical stirrer for about 5 hrs at room temperature. Removal of the solvent from each fraction gave the desired product: fraction #1 =24 g (m.p. 94°-100° C); fraction #2 =21 g (m.p. 103°-106° C); fraction #3 =25 g (m.p. 104°-106° C); and fraction 190 4 =17 g (m.p. 100°-106° C). The combined crystals (87 g, 94% yield) were recrystallized from hexane at a concentration of 7 g per 100 ml of hexane, giving 60 g of plate-like crystals, m.p. 104°-107° C. IR (KBr pellet) in cm-1 : 3250 (C≡CH), 2120 (C≡C), 1620 +1590 (C=C), 1480 (CH2), 1450 +1320 (C--N), 740 +720 (Ar), 680 +660 (C ≡CH).

reactant | Dry Ice acetone | C(=O)=O.CC(=O)C
reactant | carbazole | 0.45 mole, 75 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | sodium amide | 0.50 mole, 20 g | [NH2-].[Na+]
reactant | ammonia | N | H3N
reactant | 3-bromo-1-propyne | 0.63 mole, 75 g | BrCC#C | C3H3Br
product | 3-(N-carbazolyl)-1-propyne | C1=CC=CC=2C3=CC=CC=C3N(C12)CC#C | C15H11N
